US08048887B2
6-(Cyclopropanesulfonamido)-2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide
Cyclopropanesulfonyl chloride (8 μL, 0.058 mmol) was added to a stirring solution of 6-amino-2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide (20 mg, 0.038 mmol) in Pyridine (0.5 mL) at rt. It was allowed to stir for 2 hours. The mixture was concentrated purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (17 mg, 70%). 1H NMR (500 MHz, CD3OD) δ ppm 8.41 (1H, br. s.), 7.91-8.01 (3H, m), 7.78-7.86 (2H, m), 7.61-7.71 (2H, m), 7.58 (1H, t, J=7.63 Hz), 7.41-7.49 (2H, m), 7.24-7.33 (4H, m), 7.18 (1H, t, J=6.87 Hz), 2.94 (3H, s), 2.34-2.43 (1H, m), 1.77 (6H, s), 0.80-1.03 (4H, m). LC-MS retention time: 1.53 min; m/z (MH+): 626. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=15.40 min, purity=99%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=12.65 min, purity=99%.

reactant | Cyclopropanesulfonyl chloride | 0.058 mmol, 8 μL | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | 6-amino-2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide | 0.038 mmol, 20 mg | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1=CC(=CC=C1)C(NC(C)(C)C1=CC=CC=C1)=O | C32H28FN3O3
solvent | Pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 6-(Cyclopropanesulfonamido)-2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide | 17 mg, 70% | C1(CC1)S(=O)(=O)NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1=CC(=CC=C1)C(NC(C)(C)C1=CC=CC=C1)=O | C35H32FN3O5S
